US05242908
o-Tolylacetic acid was brominated with NBS and AIBN as described in Example 21 to give ethyl o-bromomethylphenylacetate, and this was reacted with triethyl phosphite as described in Example 2.

reactant | o-Tolylacetic acid | C1(=C(C=CC=C1)CC(=O)O)C | C9H10O2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | ethyl o-bromomethylphenylacetate | BrCC1=C(C=CC=C1)CC(=O)OCC | C11H13BrO2
